US08541455B2
To a solution of 200 mg (0.43 mmol) of 3-(2-{5-[cyclopentyl(methyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-3-phenylpropanoate, 0.3 mL (1.7 mmol) of DIEA and 30 μL (0.43 mmol) of 2,2,2-trifluoroethylamine in 1 mL of DCM are added, at 0° C., 207 mg (0.64 mmol) of TBTU. The medium is stirred for 12 hours at room temperature. A further 0.3 mL of 2,2,2-trifluoroethylamine is then added and the medium is heated at 40° C. for 6 hours. The medium is taken up in 20 mL of DCM, washed successively with water (2×10 mL) and brine (20 mL), dried over Na2SO4 and concentrated under reduced pressure, and then purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 10% EtOAc. 32 mg of 3-(2-{5-[cyclopentyl(methyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-3-phenyl-N-(2,2,2-trifluoroethyl)propanamide are thus obtained in the form of a powder.

reactant | 3-(2-{5-[cyclopentyl(methyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-3-phenylpropanoate | 0.43 mmol, 200 mg | C1(CCCC1)N(S(=O)(=O)C=1C=CC(=NC1)N1NC=C(C1=O)C(CC(=O)[O-])C1=CC=CC=C1)C
reactant | DIEA | 1.7 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2,2-trifluoroethylamine | 0.43 mmol, 30 μL | FC(CN)(F)F | C2H4F3N
reactant | TBTU | 0.64 mmol, 207 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2,2,2-trifluoroethylamine | 0.3 mL | FC(CN)(F)F | C2H4F3N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-{5-[cyclopentyl(methyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-3-phenyl-N-(2,2,2-trifluoroethyl)propanamide | 32 mg, Yield=14% | C1(CCCC1)N(S(=O)(=O)C=1C=CC(=NC1)N1NC=C(C1=O)C(CC(=O)NCC(F)(F)F)C1=CC=CC=C1)C | C25H28F3N5O4S
